US04061761
3-Isopropyl-2-isopropylimino-4-(4-methyl-3-sulfamoylphenyl)-1,3-thiazolidine-4-ol-hydrochloride
5 g of 2-chloro-4'-methyl-3'-sulfamoylacetophenone and 3.2 g of 1,3-diisopropyl thiourea were reacted as prescribed in Example 12 and worked up according to Example 67d). Colorless crystals, melting point: 152° C (decomposition).

reactant | 2-chloro-4'-methyl-3'-sulfamoylacetophenone | 5 g | ClCC(=O)C1=CC(=C(C=C1)C)S(N)(=O)=O | C9H10ClNO3S
reactant | 1,3-diisopropyl thiourea | 3.2 g | C(C)(C)NC(=S)NC(C)C | C7H16N2S
product | 3-Isopropyl-2-isopropylimino-4-(4-methyl-3-sulfamoylphenyl)-1,3-thiazolidine-4-ol-hydrochloride | Cl.C(C)(C)N1C(SCC1(O)C1=CC(=C(C=C1)C)S(N)(=O)=O)=NC(C)C | InChI=1S/C16H25N3O3S2.ClH/c1-10(2)18-15-19(11(3)4)16(20,9-23-15)13-7-6-12(5)14(8-13)24(17,21)22;/h6-8,10-11,20H,9H2,1-5H3,(H2,17,21,22);1H
